US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and pyrrolidine were converted to yield 1-{4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-pyrrolidine as white semisolid, MS: 370 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C18H16BrFOS
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-{4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-pyrrolidine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN2CCCC2 | C22H24FNOS
